US08207180B2
2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid (G2)
To a suspension of 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carbaldehyde G1 (0.55 mmol) in dioxane (6.8 mL) and water (2.4 mL), sulfamic acid (0.9 mmol) and sodium dihydrogen phosphate (2.33 mmol) were added. The mixture was cooled to 0° C. and sodium chlorite (0.95 mmol, dissolved in the minimum amount of water) was added. Other two additions of an equal amount of oxidant were made during 24 h of stirring, then the reaction was filtered and the solid product was washed with water and dried, resulting in 94% yield of the title compound. ESI (+) MS: m/z 289 (MH+); MS (ES−) 287. 1H NMR: 7.35-7.41 (m, 1H), 7.45-7.56 (m, 4H), 7.96 (d, J=9.00, 1H), 8.58 (d, J=9.00, 1H), 8.68 (d, J=5.17, 1H), 8.78 (d, J=5.17, 1H), 9.57 (s, 1H), 11.47 (bs, 1H), 13.54 (bs, 1H).

reactant | 2-phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carbaldehyde | C1(=CC=CC=C1)C1=C(C=2C(=C3C=CN=CC3=CC2)N1)C=O | C18H12N2O
reactant | sulfamic acid | 0.9 mmol | S(N)(O)(=O)=O | H3NO3S
reactant | sodium dihydrogen phosphate | 2.33 mmol | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
solvent | dioxane | 6.8 mL | O1CCOCC1 | C4H8O2
solvent | water | 2.4 mL | O | H2O
product | 2-Phenyl-1H-pyrrolo[2,3-f]isoquinoline-3-carboxylic acid | 94% yield | C1(=CC=CC=C1)C1=C(C=2C(=C3C=CN=CC3=CC2)N1)C(=O)O | C18H12N2O2
